US06359134B1
1-[4-(1H-Imidazol-1-ylmethyl)benzoyl]-4-(2-naphthalenesulfonyl)piperazine hydrochloride
To 1-[4-(1H-imidazol-1-ylmethyl)benzoyl]-4-(2-naphthalenesulfonyl)piperazine (300 mg) was added 4 N hydrochloric acid in ethyl acetate solution (5 ml) and the precipitated hydrochlorides were filtered to give the title compound (299 mg).

reactant | 1-[4-(1H-imidazol-1-ylmethyl)benzoyl]-4-(2-naphthalenesulfonyl)piperazine | 300 mg | N1(C=NC=C1)CC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | C25H24N4O3S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(1H-Imidazol-1-ylmethyl)benzoyl]-4-(2-naphthalenesulfonyl)piperazine hydrochloride | 299 mg | Cl.N1(C=NC=C1)CC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | InChI=1S/C25H24N4O3S.ClH/c30-25(22-7-5-20(6-8-22)18-27-12-11-26-19-27)28-13-15-29(16-14-28)33(31,32)24-10-9-21-3-1-2-4-23(21)17-24;/h1-12,17,19H,13-16,18H2;1H
